US09162987B2
4-Iodo-6-(pyridin-3-yl)pyrimidine (ACT-MIF-006)
The compound was prepared according to Example 1 using pyridine-3-boronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(pyridin-3-yl)pyrimidine | IC1=NC=NC(=C1)C=1C=NC=CC1 | C9H6IN3
